data/mechanism_extracts/JACS/10.1021_jacs.2c09248.json
{"doi": "10.1021_jacs.2c09248", "journal": "JACS", "is_review": false, "rxn_class_summary": "Visible-light triplet energy transfer enabled intermolecular [2π+2σ] cycloaddition of aryl/heteroaryl ketoesters (benzoylformate esters) with bicyclobutanes (BCBs) to directly assemble polysubstituted 2-oxabicyclo[2.1.1]hexanes via a biradical/aryl-migration cascade", "mechanism_family": ["biradical", "photoredox_combined", "concerted"], "electrochemical_role": null, "key_intermediates": [{"name": "Triplet excited benzoylformate ester (1,2-diradical, species A)", "smiles": null, "role": "reactive"}, {"name": "1,5-diradical from addition of excited ketoester onto BCB (species B)", "smiles": null, "role": "reactive"}, {"name": "Closed-shell oxa-bicyclic intermediate after ISC and radical-radical coupling (species C)", "smiles": null, "role": "transient"}, {"name": "Backbone C-H abstracted carbon radical (species D)", "smiles": null, "role": "reactive"}, {"name": "Bridged aryl-migration transition state / cyclohexadienyl-type intermediate (species E)", "smiles": null, "role": "transient"}, {"name": "Stabilized α-ester benzyl-type radical after aryl migration (species F)", "smiles": null, "role": "reactive"}, {"name": "Norrish type II product (off-pathway, from o-Me substrate 3r)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Ir-F photocatalyst is excited by visible light and transfers triplet energy to the benzoylformate ester, generating a 1,2-(C,O)-diradical (A); this triplet diradical adds across the central C–C σ-bond of the BCB to give the most stabilized 1,5-diradical (B), which after ISC closes by radical–radical coupling to the 2-oxa-BCH (C). A second excited ketoester then abstracts the backbone C–H to give radical D, which undergoes aryl 1,2-migration through cyclohexadienyl intermediate E to the more stable benzyl radical F, finally quenched by HAT from an H-donor.", "rate_determining_step": "Addition of the triplet excited benzoylformate ester onto the BCB to form the 1,5-diradical B is the regioselectivity-determining (and likely rate-determining) step", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed; TEMPO-adducts detected by ESI-HRMS, supporting a stepwise radical pathway"}, {"name": "Styrene (alternative radical acceptor in place of ketoester)", "smiles": "C=Cc1ccccc1", "purpose": "intermediate_trap", "observation": "Under 365 nm or standard conditions with BCB 2a, no cycloadduct detected, indicating BCBs do not initiate the radical pathway"}, {"name": "Direct 365 nm UV excitation (no photocatalyst)", "smiles": null, "purpose": "other", "observation": "Reaction of 1a + 2a still gave 3a in 50% yield, consistent with sensitization of the ketoester triplet"}, {"name": "o-Methyl benzoylformate ester (substrate probe for Norrish II)", "smiles": "COC(=O)C(=O)c1ccccc1C", "purpose": "other", "observation": "Gave Norrish type II product 7 (39%) rather than cycloadduct 3r (n.d.), demonstrating accessible triplet ketone biradical reactivity"}, {"name": "Stern–Volmer quenching with 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Both substrates quench excited *[IrF] at similar rates"}, {"name": "Cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Redox potentials outside the range of *[IrF], ruling out single-electron transfer"}, {"name": "UV/vis of 1a + 2a mixture", "smiles": null, "purpose": "redox_probe", "observation": "No evidence for EDA complex formation, supporting energy-transfer mechanism"}], "evidence_types_used": ["intermediate_trap_TEMPO", "UV_vis", "cyclic_voltammetry", "isolation_of_intermediate", "stoichiometric_intermediate", "crossover"], "evidence_strength": "medium", "notes": "Authors favor an energy-transfer (triplet sensitization) mechanism over single-electron transfer or EDA-complex pathways, based on Stern–Volmer, CV and UV/vis data. Regioselectivity is rationalized by formation of the most stabilized 1,5-diradical B and by the aryl-migration step that yields the more stabilized benzyl radical F; a reversible HAT step accounts for selective C–H abstraction at the backbone position. Substrate scope (only disubstituted BCBs; o-Me ketoester gives Norrish II 7) and X-ray structures (3a, 3h, 3q, 3v, 3z, 6) support the proposed connectivity. Mechanism explicitly noted by the authors as 'remains to be elucidated'."}
